US06114332
Similar reaction of 2-iodoisophthalic acid and 4-tert-butylaniline gave 2-[(4-tert-butyl)phenylamino]isophthalic acid (93%), mp (EtOAc/petroleum ether) 221-222° C. 1H NMR [(CD3)2SO] δ 1.24 (s, 9 H, 3×CH3), 6.84 (d, J=8.7 Hz, 2 H, H-2' and H-6' or H-3' and H-5'), 6.99 (t, J=7.7 Hz, 1 H, H-5), 7.21 (d, J=8.6 Hz, 2 H, H-3' and H-5' or H-2' and H-6'), 7.93 (d, J=7.8 Hz, 2 H, H-4 and H-6), 9.65 (br s, 1 H, NH) and 12.99 (br s, 2 H, 2×COOH Anal. (C18H13NO2) C, H, N.

reactant | 2-iodoisophthalic acid | IC1=C(C(=O)O)C=CC=C1C(=O)O | C8H5IO4
reactant | 4-tert-butylaniline | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
product | 2-[(4-tert-butyl)phenylamino]isophthalic acid | 93% | C(C)(C)(C)C1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1C(=O)O | C18H19NO4
